US05866560
A solution of 125.4 g of 7α-(5-tert-butyldimethylsilyloxypentyl)-estr-4-ene-3,17-dione in 625 ml of methanol and 347 ml of water is stirred with 694 ml of glacial acetic acid for 2.5 hours at 50° C. After the concentration by evaporation at 60° C. in a vacuum, 94.1 g of crude 7α-(5-hydroxypentyl)-estr-4-ene-3,17-dione is obtained as oil.

reactant | 7α-(5-tert-butyldimethylsilyloxypentyl)-estr-4-ene-3,17-dione | 125.4 g | [Si](C)(C)(C(C)(C)C)OCCCCC[C@H]1[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@H]2CCC(C=C2C1)=O)=O | C29H48O3Si
reactant | acetic acid | 694 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 625 ml | CO | CH4O
solvent | water | 347 ml | O | H2O
product | 7α-(5-hydroxypentyl)-estr-4-ene-3,17-dione | 94.1 g | OCCCCC[C@H]1[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@H]2CCC(C=C2C1)=O)=O | C23H34O3
